US07368578B2
A mixture of ethyl (4-{4-[(4-chloromethyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}phenyl)acetate (1.72 g), 4-[(E)-2-(2-ethyl-5-methyl-1,3-thiazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-ol hydrochloride (1.39 g), potassium carbonate (1.11 g) and N,N-dimethylformamide (30 mL) was stirred at 90° C. for 2.5 hrs. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography, tetrahydrofuran-hexane (1:5, v/v) to give ethyl {4-[4-({4-[({4-[(E)-2-(2-ethyl-5-methyl-1,3-thiazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]phenyl}acetate (0.80 g, yield 28%) as crystals. Recrystallization from tetrahydrofuran-hexane gave colorless prism crystals. melting point: 127-128° C.

reactant | ethyl (4-{4-[(4-chloromethyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}phenyl)acetate | 1.72 g | ClCC1=CC(=C(OCC=2N=C(OC2C)C2=CC=C(C=C2)CC(=O)OCC)C=C1)OC | C23H24ClNO5
reactant | 4-[(E)-2-(2-ethyl-5-methyl-1,3-thiazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-ol hydrochloride | 1.39 g | Cl.C(C)C=1SC(=C(N1)/C=C/C=1C(=NN(C1)C1=CC=CC=C1)O)C
reactant | potassium carbonate | 1.11 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | ethyl {4-[4-({4-[({4-[(E)-2-(2-ethyl-5-methyl-1,3-thiazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]phenyl}acetate | 0.80 g, yield 28% | C(C)C=1SC(=C(N1)/C=C/C=1C(=NN(C1)C1=CC=CC=C1)OCC1=CC(=C(OCC=2N=C(OC2C)C2=CC=C(C=C2)CC(=O)OCC)C=C1)OC)C | C40H40N4O6S
